US05712303
A. 3,3-Bis-ethoxy-2-(3-trifluoromethylbenzoyl)-acrylonitrile
Sodium (0.126 g, 5.5 mmol) was dissolved in 15 mL of ethanol and 20 mL of dioxane was added followed by 1.59 g (5.0 mmol) of 3,3-bis-methylthio-2-(3-trifluoromethylbenzoyl)-acrylonitrile and the reaction mixture was refluxed for 4 hours and let stir overnight at room temperature. This compound was relatively unstable to aqueous conditions and was not isolated as such. Instead, an aliquot of the mixture was stripped and the product was identified by 300 MHz proton NMR: NMR (DMSO-d6): 1.14 (6H, tJ=7), 3.45 (4H, q, d=7), 7.44-8.16 (4H, m).

reactant | Sodium | 5.5 mmol, 0.126 g | [Na] | Na
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | 3,3-bis-methylthio-2-(3-trifluoromethylbenzoyl)-acrylonitrile | 5.0 mmol, 1.59 g | CSC(=C(C#N)C(C1=CC(=CC=C1)C(F)(F)F)=O)SC | C13H10F3NOS2
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | 3,3-Bis-ethoxy-2-(3-trifluoromethylbenzoyl)-acrylonitrile | C(C)OC(=C(C#N)C(C1=CC(=CC=C1)C(F)(F)F)=O)OCC | C15H14F3NO3
